US07465795B2
4-amino-8-(5-fluoro-2-methyl-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 5-fluoro-2-methyl-phenylboronic acid (154 mg, 1.000 mmol) were reacted to afford the title compound (142 mg, 86% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.53 (br, 1H), 7.91 (m, 1H), 7.77-7.63 (m, 2H), 7.26 (m, 1H), 7.07-6.97 (m, 2H), 3.45 (apparent quartet, J=7.0 Hz, 2H), 2.01 (s, 3H), 1.65 (apparent sextet, J=7.0 Hz, 2H), 0.99 (t, J=7.0 Hz, 3H). MS APCI, m/z=339 (M+H). HPLC 1.77 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 5-fluoro-2-methyl-phenylboronic acid | 1.000 mmol, 154 mg | FC=1C=CC(=C(C1)B(O)O)C | C7H8BFO2
product | 4-amino-8-(5-fluoro-2-methyl-phenyl)-N-propyl-cinnoline-3-carboxamide | 142 mg, 86% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)F)C)C(=O)NCCC | C19H19FN4O
